US08008295B2
3-[({2-[4-(Aminosulfonyl)phenyl]ethyl}amino)sulfonyl]-5-bromo-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with 4-(aminoethyl)benzene-sulfonamide hydrochloride, the title compound was obtained. HRMS (ES) exact mass calculated for C17H18BrN4O5S2 (M+H+): 500.9897. Found 500.9927.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | 4-(aminoethyl)benzene-sulfonamide hydrochloride | Cl.NCCC1=CC=C(C=C1)S(=O)(=O)N
product | 3-[({2-[4-(Aminosulfonyl)phenyl]ethyl}amino)sulfonyl]-5-bromo-1H-indole-2-carboxamide | NS(=O)(=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=C(NC2=CC=C(C=C12)Br)C(=O)N | C17H17BrN4O5S2
